US06727264B1
N-[3-(4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE:
Prepared by the procedure for 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide using tert-butyl 4-(3-aminophenyl)-1-piperidinecarboxylate and cyclopropanecarbonyl chloride: Anal. Calcd for C15H20N2O+0.15CH2Cl2: C, 70.8; H, 7.87; N, 10.9. found: C, 70.9; H, 7.68; N, 11.1; ESMS m/e: 245.0 (M+H)+.

reactant | 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC=C(C=C1)C1CCNCC1)C | C15H22N2O
reactant | tert-butyl 4-(3-aminophenyl)-1-piperidinecarboxylate | NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | N-[3-(4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
